US06664271B1
This reaction was run in the same manner as ethyl 1-benzyl-3-piperidinecarboxylate, starting with (S)-N,N-dimethyl-3-piperidinecarboxamide (275 mg; 1.76 mmol), diisopropylethylamine (310 μl; 1.78 mmol), and benzyl bromide (210 μl; 1.77 mmol). Crude product was purified by chromatography on silica eluting with 5% methanol/95% dichloromethane, giving (S)-N,N-dimethyl 1-benzyl-3-piperidinecarboxamide (322.2 mg) as a colorless oil. MS m/z (positive ion) 247 (MH+; 100).

reactant | ethyl 1-benzyl-3-piperidinecarboxylate | C(C1=CC=CC=C1)N1CC(CCC1)C(=O)OCC | C15H21NO2
reactant | (S)-N,N-dimethyl-3-piperidinecarboxamide | 1.76 mmol, 275 mg | CN(C(=O)[C@@H]1CNCCC1)C | C8H16N2O
reactant | diisopropylethylamine | 1.78 mmol, 310 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl bromide | 1.77 mmol, 210 μl | C(C1=CC=CC=C1)Br | C7H7Br
product | (S)-N,N-dimethyl 1-benzyl-3-piperidinecarboxamide | 322.2 mg | CN(C(=O)[C@@H]1CN(CCC1)CC1=CC=CC=C1)C | C15H22N2O
